### PR TITLE
Add Kakeya problem

### PR DESCRIPTION
**Pull request by zeyu-zheng**
Related to #131

### CODE REVIEW

File: FormalConjectures/Wikipedia/Kakeya.lean [hunk 1]
```diff
@@ -0,0 +1,99 @@
...
+# Kakeya problem
+
+*Reference:* [Wikipedia](https://en.wikipedia.org/wiki/Kakeya_set)
+-/
+open Set MeasureTheory Metric
+
+/--
+A set `S` in `ℝⁿ` is called a Kakeya set if it contains a unit line segment in every direction.
+For simplicity, we omit the compactness assumption here.
+For a discussion on the equivalence of definitions with and without compactness, see [this paper](https://arxiv.org/pdf/2203.15731).
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/Kakeya.lean]:
```suggestion
For a discussion on the equivalence of definitions with and without compactness,
see [this paper](https://arxiv.org/pdf/2203.15731).
```

File: FormalConjectures/Wikipedia/Kakeya.lean [hunk 2]
```diff
@@ -0,0 +1,99 @@
...
+-/
+def IsKakeya {n : ℕ} (S : Set (Fin n → ℝ)) : Prop :=
+  ∀ v, ‖v‖ = 1 → ∃ a, ∀ t ∈ unitInterval, a + t • v ∈ S
+
+/--
+ A trivial example: the closed ball of radius 1 in `ℝⁿ` is a Kakeya set.
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/Kakeya.lean]:
```suggestion
A trivial example: the closed ball of radius 1 in `ℝⁿ` is a Kakeya set.
```

File: FormalConjectures/Wikipedia/Kakeya.lean [hunk 3]
```diff
@@ -0,0 +1,99 @@
...
+example (n : ℕ) : IsKakeya (closedBall (0 : Fin n → ℝ) 1) := by
+  rintro v hv
+  use 0
+  rintro t ⟨ht₀, ht₁⟩
+  simp
+  rw [norm_smul, hv, mul_one, Real.norm_eq_abs, abs_of_nonneg ht₀]
+  exact ht₁
+
+/--
+The **Kakeya set conjecture**: every Kakeya set in `ℝⁿ` has Hausdorff dimension `n`.
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/Kakeya.lean]:
```suggestion
The **Kakeya set conjecture** in dimension `n`: the statement that every Kakeya set in `ℝⁿ` has
Hausdorff dimension `n`.
```

File: FormalConjectures/Wikipedia/Kakeya.lean [hunk 4]
```diff
@@ -0,0 +1,99 @@
...
+
+/--
+The two-dimensional case, proved by Davies [Da71].
+
+[Da71] Davies, R. O., _Some remarks on the Kakeya problem_. Math. Proc. Cambridge Philos. Soc. 69 (1971), no. 3, 417–421.
+-/
+@[category research solved, AMS 42]
+theorem kakeya_2d :
+    KakeyaSetConjectureDim 2 := by
+  sorry
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/Kakeya.lean]:
```suggestion
theorem kakeya_2d : KakeyaSetConjectureDim 2 := by
  sorry
```
here it's fine to just state it in one line

File: FormalConjectures/Wikipedia/Kakeya.lean [hunk 5]
```diff
@@ -0,0 +1,99 @@
...
+
+/--
+The three-dimensional case, proved by Wang, Zahl [WaZa25].
+
+[WaZa25] Wang, H. and Zahl, J., _Volume estimates for unions of convex sets, and the Kakeya set conjecture in three dimensions_.
+arXiv preprint, arXiv:2502.17655, 2025.
+-/
+@[category research solved, AMS 42]
+theorem kakeya_3d :
+    KakeyaSetConjectureDim 3 := by
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/Kakeya.lean]:
```suggestion
theorem kakeya_3d : KakeyaSetConjectureDim 3 := by
```

File: FormalConjectures/Wikipedia/Kakeya.lean [hunk 6]
```diff
@@ -0,0 +1,99 @@
...
+  sorry
+
+
+/--
+A finite field variant of the Kakeya problem considers subsets of `𝔽_qⁿ` that contain a line in every direction.
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/Kakeya.lean]:
```suggestion
A finite field variant of the Kakeya problem considers subsets of `𝔽_qⁿ` that contain a line in
every direction.
```
keeping to 100 character limit in doc strings also.

File: FormalConjectures/Wikipedia/Kakeya.lean [hunk 7]
```diff
@@ -0,0 +1,99 @@
...
+-/
+def IsKakeyaFinite {F : Type*} [Field F] [Fintype F] {n : ℕ} (S : Finset (Fin n → F)) : Prop :=
+  ∀ v, v ≠ 0 → ∃ a, ∀ t : F, a + t • v ∈ S
+
+open Fintype in
+/--
+The finite field Kakeya conjecture asserts that any Kakeya set in `𝔽_qⁿ` has size at least `c_n · qⁿ` for some constant `c_n` depending only on `n`.
+This was first proved by Dvir in [Dv08] and the currently best known bound is due to Bukh and Chao [BuCh21].
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/Kakeya.lean]:
```suggestion
The finite field Kakeya conjecture asserts that any Kakeya set in `𝔽_qⁿ` has size at least
`c_n · qⁿ` for some constant `c_n` depending only on `n`.
This was first proved by Dvir in [Dv08] and the currently best known bound is due to
Bukh and Chao [BuCh21].
```

File: FormalConjectures/Wikipedia/Kakeya.lean [hunk 8]
```diff
@@ -0,0 +1,99 @@
...
+-/
+open Set MeasureTheory Metric
+
+/--
+A set `S` in `ℝⁿ` is called a Kakeya set if it contains a unit line segment in every direction.
+For simplicity, we omit the compactness assumption here.
+For a discussion on the equivalence of definitions with and without compactness, see [this paper](https://arxiv.org/pdf/2203.15731).
+-/
+def IsKakeya {n : ℕ} (S : Set (Fin n → ℝ)) : Prop :=
+  ∀ v, ‖v‖ = 1 → ∃ a, ∀ t ∈ unitInterval, a + t • v ∈ S
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/Kakeya.lean]:
```suggestion
  ∀ v, ‖v‖ = 1 → ∃ a, affineSegment ℝ a (a + v) ⊆ S
```
I would use `affineSegment` here (this requires you to reprove the `example` below).

File: FormalConjectures/Wikipedia/Kakeya.lean [hunk 9]
```diff
@@ -0,0 +1,99 @@
...
+*Reference:* [Wikipedia](https://en.wikipedia.org/wiki/Kakeya_set)
+-/
+open Set MeasureTheory Metric
+
+/--
+A set `S` in `ℝⁿ` is called a Kakeya set if it contains a unit line segment in every direction.
+For simplicity, we omit the compactness assumption here.
+For a discussion on the equivalence of definitions with and without compactness, see [this paper](https://arxiv.org/pdf/2203.15731).
+-/
+def IsKakeya {n : ℕ} (S : Set (Fin n → ℝ)) : Prop :=
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/Kakeya.lean]:
```suggestion
def IsKakeya {n : ℕ} (S : Set (EuclideanSpace ℝ (Fin n))) : Prop :=
```
Heads up that `Fin n → ℝ` carries the product metric by default, wheras if you want the standard L2 metric you should use `EuclideanSpace ℝ (Fin n)`. This should be replaced in the other occurences in this PR as well.

File: FormalConjectures/Wikipedia/Kakeya.lean [hunk 10]
```diff
@@ -0,0 +1,99 @@
...
+This was first proved by Dvir in [Dv08] and the currently best known bound is due to
+Bukh and Chao [BuCh21].
+
+[Dv08] Dvir, Z., _On the size of Kakeya sets in finite fields_. Journal of the American Mathematical Society 22 (2009), no. 4, 1093–1097.
+[BuCh21] Bukh, B. and Chao, T.-W., _Sharp density bounds on the finite field Kakeya problem_. Discrete Analysis 26 (2021), 9 pp.
+-/
+@[category research solved, AMS 52]
+theorem kakeya_finite {F : Type*} [Field F] [Fintype F] {n : ℕ}
+    (K : Finset (Fin n → F)) (hK : IsKakeyaFinite K) :
+    K.card ≥ card F ^ n / (2 - 1 / card F) ^ (n - 1) := by
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/Kakeya.lean]: If you don't add the `: ℚ` then the statement doesn't match the informal one, e.g. `1 / card F = 0` when working in `Nat`. 
```suggestion
    card F ^ n / (2 - 1 / card F : ℚ) ^ (n - 1)  ≤ K.card   := by
```

File: FormalConjectures/Wikipedia/Kakeya.lean [hunk 11]
```diff
@@ -0,0 +1,99 @@
...
+def IsKakeyaFinite {F : Type*} [Field F] [Fintype F] {n : ℕ} (S : Finset (Fin n → F)) : Prop :=
+  ∀ v, v ≠ 0 → ∃ a, ∀ t : F, a + t • v ∈ S
+
+open Fintype in
+/--
+The finite field Kakeya conjecture asserts that any Kakeya set in `𝔽_qⁿ` has size at
+least `c_n · qⁿ` for some constant `c_n` depending only on `n`.
+This was first proved by Dvir in [Dv08] and the currently best known bound is due to
+Bukh and Chao [BuCh21].
+
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/Kakeya.lean:91]: I think it would be worth writing the formula for the bound in the informal statement too.

File: FormalConjectures/Wikipedia/Kakeya.lean [hunk 12]
```diff
@@ -0,0 +1,99 @@
...
+This was first proved by Dvir [Dv08]. The best known bound to date, due to Bukh and Chao [BuCh21],
+establishes that any Kakeya set in `𝔽_qⁿ` has size at least `qⁿ / (2 - 1/q)^(n - 1)`.
+
+[Dv08] Dvir, Z., _On the size of Kakeya sets in finite fields_. Journal of the American Mathematical Society 22 (2009), no. 4, 1093–1097.
+[BuCh21] Bukh, B. and Chao, T.-W., _Sharp density bounds on the finite field Kakeya problem_. Discrete Analysis 26 (2021), 9 pp.
+-/
+@[category research solved, AMS 52]
+theorem kakeya_finite {F : Type*} [Field F] [Fintype F] {n : ℕ}
+    (K : Finset (Fin n → F)) (hK : IsKakeyaFinite K) :
+    K.card ≥ card F ^ n / (2 - 1 / card F : ℚ) ^ (n - 1) := by
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/Kakeya.lean]: (to stay closer to Mathlib's conventions!)
```suggestion
    card F ^ n / (2 - 1 / card F : ℚ) ^ (n - 1) ≤ K.card := by
```
